US07345056B2
A solution of 0.27 g (0.9 mmol) of 9-(4-chlorophenylsulfonyl)-9-azabicyclo[3.3.1]nonan-3-one in 2.0 mL of THF was stirred at rt and 0.70 mL (8.7 mmol) of ethyl formate was added followed by 1.0 mL of EtOH and 0.78 mL of a 21 wt % solution of NaOEt in EtOH. The reaction mixture was stirred at 70° C. for 1 h. The reaction mixture was concentrated by rotary evaporation, quenched with sat. aq. NH4Cl and extracted with CHCl3. The organic layer was dried over MgSO4, filtered and concentrated to afford 0.25 g (86%) of 9-(4-chlorophenylsulfonyl)-2-(hydroxymethylene)-9-azabicyclo[3.3.1]nonan-3-one as an orange solid. 1H NMR (300 MHz, CDCl3) δ 14.11 (s, 1H), 8.24 (s, 1H), 7.73 (d, J=8.6 Hz, 2H), 7.45 (d, J=8.6 Hz, 2H), 4.85 (s, 1H), 4.32 (m, 1H), 2.58 (dd, J=19.8, 7.7 Hz, 1H), 2.17 (d, J=19.8 Hz, 1H), 2.00-1.76 (m, 2H), 1.61 (m, 5H).

reactant | 9-(4-chlorophenylsulfonyl)-9-azabicyclo[3.3.1]nonan-3-one | 0.9 mmol, 0.27 g | ClC1=CC=C(C=C1)S(=O)(=O)N1C2CC(CC1CCC2)=O | C14H16ClNO3S
reactant | ethyl formate | 8.7 mmol, 0.70 mL | C(=O)OCC | C3H6O2
reactant | NaOEt | CC[O-].[Na+]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | EtOH | CCO | C2H6O
solvent | EtOH | 1.0 mL | CCO | C2H6O
product | 9-(4-chlorophenylsulfonyl)-2-(hydroxymethylene)-9-azabicyclo[3.3.1]nonan-3-one | 0.25 g, 86% | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C(C(CC1CCC2)=O)=CO | C15H16ClNO4S
